US07834035B2
4-Fluorobenzoyl chloride (47 mL, 0.40 mmol) was added at 0° C. to a solution of (S)-piperidine-3-carboxylic acid (4-fluoro-phenyl)-methyl-amide hydrochloride (0.11 g, 0.40 mmol) and triethylamine (112 mL, 0.80 mmol) in dichloromethane (3 mL), under nitrogen atmosphere. The reaction mixture was kept under stirring at R.T. for 2 h, the solvent was evaporated and the residue was diluted with water and ethyl acetate. The phases were separated and the organic layer was washed with HCl 1N (10 mL), with Na2CO3 2M (aq.) (10 mL) and with brine (10 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure to give 0.121 g of (S)-1-(4-fluoro-benzoyl)-piperidine-3-carboxylic acid (4-fluoro-phenyl)-methyl-amide as a gummy solid.

reactant | 4-Fluorobenzoyl chloride | 0.40 mmol, 47 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | (S)-piperidine-3-carboxylic acid (4-fluoro-phenyl)-methyl-amide hydrochloride | 0.40 mmol, 0.11 g | Cl.FC1=CC=C(C=C1)N(C(=O)[C@@H]1CNCCC1)C
reactant | triethylamine | 0.80 mmol, 112 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (S)-1-(4-fluoro-benzoyl)-piperidine-3-carboxylic acid (4-fluoro-phenyl)-methyl-amide | 0.121 g, Yield: 84% | FC1=CC=C(C=C1)N(C(=O)[C@@H]1CN(CCC1)C(C1=CC=C(C=C1)F)=O)C | C20H20F2N2O2
